US05025025
To a solution of 0.405 g (1.3 mmol) 5-hydroxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane in 8 mL methylene chloride is added a few crystals of 4-dimethylaminopyridine followed by 0.5 mL (3.6 mmol) triethylamine and 0.5 g (2.6 mmol) p-toluenesulfonyl chloride. The reaction is stirred at room temperature for 18 hours and then diluted with ether. The ether layer is washed with saturated aqueous sodium bicarbonate, dried, filtered and evaporated to give an amber oil which is purified by chromatography over silica gel using ether/ethyl acetate (4:1) as eluent to yield 5-tosyloxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane; NMR (CDCl3): delta 7.9 (d,2H), 7.4 (d,2H), 2.45 (s,3H).

reactant | 5-hydroxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane | 1.3 mmol, 0.405 g | OC(CCCCOC1OCCCC1)CCCC=1C=NC=CC1 | C18H29NO3
reactant | triethylamine | 3.6 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 2.6 mmol, 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | CCOCC | C4H10O
product | 5-tosyloxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane | S(=O)(=O)(C1=CC=C(C)C=C1)OC(CCCCOC1OCCCC1)CCCC=1C=NC=CC1 | C25H35NO5S
